US07291641B2
N-benzyl(4-[1,1′-biphenyl]-4-yl-1H-imidazol-2-yl)-N-methylmethanamine
(4-[1,1′-biphenyl]-4-yl-1H-imidazol-2-yl)-N-methylmethanamine (1 g; 0.003 mol; prepared under experimental conditions similar to those previously and using suitable starting reagents and reaction products) is diluted in 20 ml of dimethylformamide. Potassium carbonate (1.23 g; 0.009 mol) is added at 23° C. then benzyl bromide (0.34 ml; 0.003 mol) is added fairly slowly. The reaction mixture is stirred at this temperature for 48 hours then poured in ice-cooled water. The mixture is extracted with ethyl acetate and the organic phase washed with water. After drying over magnesium sulphate, the solvents are concentrated using a rotary evaporator. After purification on a silica column (eluent: ethyl acetate-heptane/8-2), a white-coloured solid is obtained in the form of a paste (yield of 16%). Free base. Melting point: 106-108° C.

reactant | (4-[1,1′-biphenyl]-4-yl-1H-imidazol-2-yl)-N-methylmethanamine | C1(=CC=C(C=C1)C=1N=C(NC1)CNC)C1=CC=CC=C1 | C17H17N3
reactant | Potassium carbonate | 0.009 mol, 1.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.003 mol, 0.34 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-benzyl(4-[1,1′-biphenyl]-4-yl-1H-imidazol-2-yl)-N-methylmethanamine | yield of 16% | C(C1=CC=CC=C1)N(CC=1NC=C(N1)C1=CC=C(C=C1)C1=CC=CC=C1)C | C24H23N3
